US08563547B2
N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)-2-(4-(4-(trifluoromethoxy)phenyl)piperidin-1-yl)acetamide
Similar to the manipulation of example 1, with (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide (130 mg, 0.50 mmol) and 4-(4-(trifluoromethoxy)phenyl)piperidine (245 mg, 1.0 mmol) as crude materials, 140 mg title compound was generated and yield was 60%.

reactant | (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide | 0.50 mmol, 130 mg | ClCC(=O)N[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C8H9ClN4O4
reactant | 4-(4-(trifluoromethoxy)phenyl)piperidine | 1.0 mmol, 245 mg | FC(OC1=CC=C(C=C1)C1CCNCC1)(F)F | C12H14F3NO
product | N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)-2-(4-(4-(trifluoromethoxy)phenyl)piperidin-1-yl)acetamide | 140 mg, yield was 60% | [N+](=O)([O-])C=1N=C2OC[C@H](CN2C1)NC(CN1CCC(CC1)C1=CC=C(C=C1)OC(F)(F)F)=O | C20H22F3N5O5
